US05283251
A solution of 4-(2-methylindol-3-yl)butyric acid (600 mg) in N,N-dimethylformamide (10 ml) was added to a suspension of sodium hydride (60% dispersion in mineral oil, 243 mg) in N,N-dimethylformamide (5 ml) at 20° C. and the mixture was stirred at 20° C. for 1 hour. A solution of phenyl 3-nitrobenzoate (671 mg) in tetrahydrofuran (10 ml) was added to the mixture at -35° C. and the resulting mixture was stirred at the same temperature for 2 hours. The mixture was poured into a mixture of ethyl acetate and 1N hydrochloric acid. The organic layer was separated, washed with water and brine, and dried over magnesium sulfate. After evaporation of solvent, the residue was chromatographed on a silica gel (25 g) column with a mixture of hexane and ethyl acetate (10:1 to 1:1) to give 4-[2-methyl-1-(3-nitrobenzoyl)indol-3-yl]butyric acid (749 mg) as yellow crystals.

reactant | 4-(2-methylindol-3-yl)butyric acid | 600 mg | CC=1NC2=CC=CC=C2C1CCCC(=O)O | C13H15NO2
reactant | sodium hydride | 243 mg | [H-].[Na+]
reactant | phenyl 3-nitrobenzoate | 671 mg | [N+](=O)([O-])C=1C=C(C(=O)OC2=CC=CC=C2)C=CC1 | C13H9NO4
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[2-methyl-1-(3-nitrobenzoyl)indol-3-yl]butyric acid | 749 mg | CC=1N(C2=CC=CC=C2C1CCCC(=O)O)C(C1=CC(=CC=C1)[N+](=O)[O-])=O | C20H18N2O5
